US06391901B1
Preparation of (S)-3-[4-[2-(1-Pyrrolidinyl)ethoxy]benzyl]-2-[4-(5-oxopyrrolidin-2-ylmethoxy)phenyl]benzo[b]thiophene Oxalate
By essentially following the procedure detailed in Example 1, Part D, but using thionyl chloride in refluxing dichloromethane to form the benzoyl choride, the title compound was prepared from 2-(4-methoxyphenyl)-benzo[b]thiophene and 4-[2-(1-pyrrolidinyl)ethoxy]benzoic acid hydrochloride in 59% yield as an oil following radial chromatography (SiO2; gradient of 2-5% MeOH in CH2Cl2).

reactant | 2-(4-methoxyphenyl)-benzo[b]thiophene | COC1=CC=C(C=C1)C1=CC2=C(S1)C=CC=C2 | C15H12OS
reactant | 4-[2-(1-pyrrolidinyl)ethoxy]benzoic acid hydrochloride | Cl.N1(CCCC1)CCOC1=CC=C(C(=O)O)C=C1
reactant | MeOH | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (S)-3-[4-[2-(1-Pyrrolidinyl)ethoxy]benzyl]-2-[4-(5-oxopyrrolidin-2-ylmethoxy)phenyl]benzo[b]thiophene Oxalate | 59% yield | C(C(=O)O)(=O)O.N1(CCCC1)CCOC1=CC=C(CC=2C3=C(SC2C2=CC=C(C=C2)OC[C@H]2NC(CC2)=O)C=CC=C3)C=C1 | InChI=1S/C32H34N2O3S.C2H2O4/c35-31-16-11-25(33-31)22-37-27-14-9-24(10-15-27)32-29(28-5-1-2-6-30(28)38-32)21-23-7-12-26(13-8-23)36-20-19-34-17-3-4-18-34;3-1(4)2(5)6/h1-2,5-10,12-15,25H,3-4,11,16-22H2,(H,33,35);(H,3,4)(H,5,6)/t25-;/m0./s1
